US07294644B2
Preparation of 2-[2-(2,5-Dimethoxy-phenyl)-2-oxo-ethyl]-3-oxo-butyric acid methyl ester:
To a solution of 3 g of 3-oxo-butyric acid methyl ester in THF (60 ml) and 5.2 ml of a solution of sodium methoxide (5.4 M in methanol) was added over 15 minutes a solution of 7 g of 2-bromo-1-(2,5-dimethoxy-phenyl)-ethanone in 30 ml of THF. The reaction mixture was allowed to stir at room temperature for 16 hours, during which time a precipitation occurred. The reaction mixture was then diluted in diethyl ether and washed several times with water. The organic phase was then dried with sodium sulfate and concentrated in vacuo. The residue was then triturated with isopropyl ether and filtered to give 6.3 g of the title compound. MS (ISP) 295.1 (M+H)+.

reactant | 3-oxo-butyric acid methyl ester | 3 g | COC(CC(C)=O)=O | C5H8O3
reactant | sodium methoxide | 5.4 M | C[O-].[Na+]
reactant | 2-bromo-1-(2,5-dimethoxy-phenyl)-ethanone | 7 g | BrCC(=O)C1=C(C=CC(=C1)OC)OC | C10H11BrO3
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 2-[2-(2,5-Dimethoxy-phenyl)-2-oxo-ethyl]-3-oxo-butyric acid methyl ester | 6.3 g | COC(C(C(C)=O)CC(=O)C1=C(C=CC(=C1)OC)OC)=O | C15H18O6
